US08222248B2
A mixture of methyl 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylate (490 mg, 1.75 mmol) and 1N sodium hydroxide (3.5 mL, 3.5 mmol) in ethanol (25 mL) was heated at 80° C. for 18 h. The solution was poured into ethyl acetate and extracted with 1N HCl. The organic phase was dried, filtered, and solvent was removed under reduced pressure to afford 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylic acid.

reactant | methyl 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylate | 1.75 mmol, 490 mg | CC1=C(C(=CC=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)OC | C18H17NO2
reactant | sodium hydroxide | 3.5 mmol, 1N, 3.5 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylic acid | CC1=C(C(=CC=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O | C17H15NO2
